US05648473
To 5.78 g of cytosine were added 5 ml of dichloromethane, 20.6 ml of N-methyl-N-trimethylsilyl-trifluoroacetamide and 5 ml of dichloromethane to form a homogenous bis-trimethylsilylcytosine solution.

reactant | cytosine | 5.78 g | N1C(=O)N=C(N)C=C1 | C4H5N3O
reactant | N-methyl-N-trimethylsilyl-trifluoroacetamide | 20.6 ml | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | bis-trimethylsilylcytosine | C[Si](C)(C)N(C1=NC(NC=C1)=O)[Si](C)(C)C | C10H21N3OSi2
